US08283359B2
4-Iodo-1-isothiocyanato-2-methylbenzene
To a stirring solution of 4-iodo-2-methylaniline (1.0 g, 4.2 mmol) in DCM (50 mL) was added water (20 mL) followed by thiophosgene (490 mg, 4.2 mmol). The reaction mixture was stirred overnight before the layers were separated and the organic layer dried (Na2SO4) and evaporated in vacuo to give the desired product as a brown solid (1.05 g, 89%). δH (CDCl3) 7.75 (1H, d, J 1.2 Hz), 7.62 (1H, dd, J 1.2, 8.3 Hz), 7.15 (1H, d, J 8.3 Hz), 2.20 (3H, s).

reactant | 4-iodo-2-methylaniline | 4.2 mmol, 1.0 g | IC1=CC(=C(N)C=C1)C | C7H8IN
reactant | water | 20 mL | O | H2O
reactant | thiophosgene | 4.2 mmol, 490 mg | C(=S)(Cl)Cl | CCl2S
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-Iodo-1-isothiocyanato-2-methylbenzene | 1.05 g, 89% | IC1=CC(=C(C=C1)N=C=S)C | C8H6INS
